US04810702
In 11 ml of dimethylformamide was dissolved 2.16 g of benzhydryl L-lactate. After cooling the solution to -40° C., 0.8 ml of sulfuryl chloride was added thereto followed by stirring for an hour. Thereafter the reaction solution was extracted with ethyl acetate and a sodium bicarbonate aqueous solution. The organic phase was washed with water, dried and then concentrated to dryness to give 1.8 g of benzhydryl (2R)-2-chloropropionate. This ester was reacted with 3.1 g of allyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate prepared in a manner similar to the description of Published Unexamined Japanese Patent Application No. 149289/80 in 16 ml of dimethylsulfoxide overnight at room temperature in the presence of 1.8 g of potassium carbonate. The reaction solution was partitioned with ice water and ethyl acetate. The organic phase was washed with water, dried and concentrated. The residue was dissolved in 30 ml of methylene chloride. To the solution were added 182 mg of triphenylphosphine and 34 mg of tetrakistriphenylphosphine palladium. The mixture was stirred at room temperature for 30 minutes. Then, a solution of 1.26 g of potassium 2-ethylhexanoate in ethyl acetate. After stirring at room temperature for 2 hours, 45 ml of isopropyl ether was added and the mixture was allowed to stand overnight at 0° C. The obtained precipitates were partitioned in ethyl acetate-acidic water (pH 2.8). The organic phase was washed with water, dried and concentrated to give 2.13 g of 2-(2-tritylamino-thiazol-4-yl)-2-{(1S)-1-diphenylmethoxycarbonylethoxyimino}acetic acid.

reactant | benzhydryl L-lactate | 2.16 g | C([C@@H](O)C)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O3
reactant | sulfuryl chloride | 0.8 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | benzhydryl (2R)-2-chloropropionate | 1.8 g | Cl[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C16H15ClO2
